US07560551B2
A dry 25 ml round bottom flask under nitrogen was charged with 2.5 M nBuLi in Hexanes (0.420 ml, 1.06 mmol); which was diluted with THF (1 ml). This was cooled to −78° C. and 4-methylthiazole (100 mg, 1.01 mmol) dissolved in 2 ml of THF was added slowly via syringe. This was stirred at −78° C. for 2 hours, slowly warmed up to −10° C. and stirred at this temperature for 0.5 hour. Reaction cooled back to −78° C. and 0.5M zinc(II) chloride in THF (3.03 ml, 1.51 mmol) added via syringe. Reaction stirred at −78° C. for 0.5 hour then at room temperature for 1 hour. At this time, 4-chloro-N-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)phthalazin-1-amine (115 mg, 0.250 mmol) and Pd(PPh3)4 (58 mg, 0.05 mmol) added and reaction stirred under nitrogen at 65° C. for 48 hours. Reaction stopped, cooled to room temperature, diluted with aq. EDTA/NaHCO3 solution. This was extracted with ethyl acetate. Organic portion was dried with Na2SO4, filtered, and concentrated to give light brown residue. This was purified by Gilson reverse phase chromatography (10% to 90% CH3CN/H2O/0.1% TFA). The product-containing fractions were combined, basified by addition of Aq. NaHCO3 and extracted with ethyl acetate. The organic portion was dried with Na2SO4, filtered, and concentrated to afford pure N-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-4-(4-methylthiazol-2-yl)phthalazin-1-amine as a yellow solid. MS m/z=519 [M+H]+. Calc'd for C28H22N8OS: 518.59.

reactant | nBuLi | 2.5 M | [Li]CCCC
reactant | 4-methylthiazole | 1.01 mmol, 100 mg | CC=1N=CSC1 | C4H5NS
reactant | 4-chloro-N-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)phthalazin-1-amine | 0.250 mmol, 115 mg | ClC1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)OC1=NC=CC=C1C1=NC(=NC=C1)NC | C24H18ClN7O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | EDTA NaHCO3 | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O.C(=O)(O)[O-].[Na+]
catalyst | zinc(II) chloride | 0.5M | [Cl-].[Zn+2].[Cl-]
catalyst | Pd(PPh3)4 | 0.05 mmol, 58 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | 1.51 mmol, 3.03 ml | C1CCOC1 | C4H8O
product | N-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)-4-(4-methylthiazol-2-yl)phthalazin-1-amine | CNC1=NC=CC(=N1)C=1C(=NC=CC1)OC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)C=1SC=C(N1)C | C28H22N8OS
